US05663297
For the preparation of the ester starting material, N-(benzyloxycarbonyl)-3-(p-cyanophenyl)-DL-alanine and N-glycyl-β-alanine benzyl ester trifluoroacetate are coupled to give N-[N-[N-(benzyloxycarbonyl)-3-(p-cyanophenyl)-DL-alanyl]glycyl]-β-alanine benzyl ester, m.p. 134°-135° C. Therefrom with hydrogen sulphide and triethylamine in pyridine there is obtained N-[N-[N-(benzyloxycarbonyl)-3-[p-(thiocarbamoyl)phenyl]-DL-alanyl]glycyl]-β-alanine benzyl ester m.p.150°-151° C. Reaction with methyl iodide in acetone, subsequent reaction with ammonium acetate in methanol and treatment with benzyl chloroformate and triethylamine in THF give N-[N-[N-(benzyloxycarbonyl)-3-[p-[N-(benzyloxycarbonyl)-amidino]phenyl]-DL-alanyl]glycyl]-β-alanine benzyl ester, MS: 694 (100, M+H).

reactant | N-(benzyloxycarbonyl)-3-(p-cyanophenyl)-DL-alanine | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=C(C=C1)C#N)C(=O)O | C18H16N2O4
reactant | N-glycyl-β-alanine benzyl ester trifluoroacetate | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC(CCNC(CN)=O)=O
product | N-[N-[N-(benzyloxycarbonyl)-3-(p-cyanophenyl)-DL-alanyl]glycyl]-β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCNC(CNC(C(NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C#N)=O)=O)=O | C30H30N4O6
